US07572811B2
To a solution of tert-butyl 4-(6-formyl-pyridin-3-yl)-piperazine-1-carboxylate (0.39 mmol) in THF (10 mL) is added NaBH4 (2.72 mmol) and the reaction mixture is stirred at room temperature for 1 hour. After it is cooled to 0° C., the reaction mixture is slowly mixed with ice cold water (5 mL) and then partitioned between saturated Na2CO3 solution and 10% MeOH in EtOAc. The aqueous phase is extracted with 10% MeOH in EtOAc. The combined organic extracts are washed with saturated aqueous NaCl and dried over Na2SO4. After concentration, the residue is purified by silica gel chromatography (100/10/1 EtOAc/MeOH/Et3N) to give tert-butyl 4-(6-hydroxymethyl-pyridin-3-yl)-piperazine-1-carboxylate.

reactant | tert-butyl 4-(6-formyl-pyridin-3-yl)-piperazine-1-carboxylate | 0.39 mmol | C(=O)C1=CC=C(C=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21N3O3
reactant | NaBH4 | 2.72 mmol | [BH4-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(6-hydroxymethyl-pyridin-3-yl)-piperazine-1-carboxylate | OCC1=CC=C(C=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H23N3O3
